US06818774B2
f) [5-(4-Fluoro-benzyloxy)-2-hydroxymethyl-phenyl]-acetic acid methyl ester
The 4-(4-fluoro-benzyloxy)-2-methoxycarbonylmethyl-benzoic acid (1.15 g, 3.6 mmol) is solved in THF (28 mL) and borane-dimethylsulfide complex is added (0.69 mL, 7.26 mmol) at 0° C. The reaction is stirred for 2 hours at room temperature and more borane-dimethylsulfide complex (0.69 mL, 7.26 mmol) is added at 0° C. The reaction mixture was stirred at room temperature for 7 h. Methanol was added very slowly and the mixture stirred 20 min. Filtration and concentration in a rotatory evaporator left a solid that was purified through a Silica-gel column using hexane/ethyl acetate 3/1 to 1/2 as eluents (0.927 g, 71.4%). MS: m/e=304 (M+).

reactant | 4-(4-fluoro-benzyloxy)-2-methoxycarbonylmethyl-benzoic acid | 3.6 mmol, 1.15 g | FC1=CC=C(COC2=CC(=C(C(=O)O)C=C2)CC(=O)OC)C=C1 | C17H15FO5
reactant | Methanol | CO | CH4O
solvent | THF | 28 mL | C1CCOC1 | C4H8O
product | [5-(4-Fluoro-benzyloxy)-2-hydroxymethyl-phenyl]-acetic acid methyl ester | COC(CC1=C(C=CC(=C1)OCC1=CC=C(C=C1)F)CO)=O | C17H17FO4
